US04230703
N-n-propyl-4-ethoxycarbonylmethylaniline (11.1 g, b.p. 131°-135°C./0.5 mmHg), sodium hydrogencarbonate (6.3 g), water (10 ml), and ethyl 2-bromomethylbenzoate (14.6 g) were treated in the same manner as described in Example 1 to obtain N-n-propyl-N-(2-ethoxycarbonylbenzyl)-4-ethoxycarbonylmethylaniline (16.5 g).

reactant | N-n-propyl-4-ethoxycarbonylmethylaniline | 11.1 g | C(CC)NC1=CC=C(C=C1)CC(=O)OCC | C13H19NO2
reactant | sodium hydrogencarbonate | 6.3 g | C(O)([O-])=O.[Na+]
reactant | ethyl 2-bromomethylbenzoate | 14.6 g | BrCC1=C(C(=O)OCC)C=CC=C1 | C10H11BrO2
solvent | water | 10 ml | O | H2O
product | N-n-propyl-N-(2-ethoxycarbonylbenzyl)-4-ethoxycarbonylmethylaniline | 16.5 g | C(CC)N(C1=CC=C(C=C1)CC(=O)OCC)CC1=C(C=CC=C1)C(=O)OCC | C23H29NO4
